US07741315B2
9-(3-Chloro-4-fluorobenzyl)-7-hydroxy-3-(hydroxymethyl)-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione
A mixture of 9-(3-chloro-4-fluorobenzyl)-7-hydroxy-3-(acetyloxymethyl)-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione (46 mg, 0.10 mmol) and 30% sodium methoxide in methanol (39 mg) in dioxane (1.5 mL) was stirred at room temperature for 2 hours. The product mixture was concentrated under vacuum. The residue was dissolved in DMSO and subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and lyophilization of appropriate fractions afforded the title compound.

reactant | 9-(3-chloro-4-fluorobenzyl)-7-hydroxy-3-(acetyloxymethyl)-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione | 0.10 mmol, 46 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(OC(C4)COC(C)=O)=O)=O)O)=O)C=CC1F | C21H18ClFN2O7
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 39 mg | CO | CH4O
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 9-(3-Chloro-4-fluorobenzyl)-7-hydroxy-3-(hydroxymethyl)-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(OC(C4)CO)=O)=O)O)=O)C=CC1F | C19H16ClFN2O6
